US07772264B2
6.00 g (30 mmol) of (5-Methyl-2-phenyl-oxazol-4-yl)-acetonitrile were hydrogenated in the presence of 0.60 g of wet Raney Cobalt catalyst (Grace Davison Catalysts, Worms, Germany, Type Nr. 2700) in 54 mL of methanol in a 185 mL stainless steel autoclave under 9 bar of hydrogen pressure at 80° C. for 4 h. Removal of the catalyst by filtration, evaporation of the solvents and drying (45° C./10 mbar/2 h) afforded 6.15 g of 2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethylamine with a purity of 87.7% (HPLC area %).

reactant | (5-Methyl-2-phenyl-oxazol-4-yl)-acetonitrile | 30 mmol, 6.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)CC#N | C12H10N2O
reactant | hydrogen | [H][H] | H2
catalyst | Cobalt | [Co] | Co
solvent | methanol | 54 mL | CO | CH4O
product | 2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethylamine | 6.15 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCN | C12H14N2O
